US08357679B2
C: 1-(Cyclopropylmethyl)-3-(3-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-ylsulfonyl)phenyl)urea
2-(4-((4-(3-Aminophenylsulfonyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.302 mmol, 150 mg) and 4-nitrophenyl carbonochloridate (0.302 mmol, 60.8 mg) were combined in a mixture of dichloromethane/dimethylformamide and stirred at room temperature for 1 hour. Cyclopropylmethanamine (0.603 mmol, 42.9 mg) was added and the reaction mixture was left to stir at room temperature for 15 minutes. The reaction mixture was purified by SCX chromatography and concentrated under vacuum. The residue was purified by silica column chromatography, eluting with 0%-4% methanol/dichloromethane gradient, to afford the title compound (52.3 mg).

reactant | 2-(4-((4-(3-Aminophenylsulfonyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.302 mmol, 150 mg | NC=1C=C(C=CC1)S(=O)(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C20H21F6N3O3S
reactant | 4-nitrophenyl carbonochloridate | 0.302 mmol, 60.8 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | Cyclopropylmethanamine | 0.603 mmol, 42.9 mg | C1(CC1)CN | C4H9N
solvent | dichloromethane dimethylformamide | ClCCl.CN(C=O)C
product | 1-(Cyclopropylmethyl)-3-(3-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-ylsulfonyl)phenyl)urea | 52.3 mg | C1(CC1)CNC(=O)NC1=CC(=CC=C1)S(=O)(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C25H28F6N4O4S
